US08466114B2
To a stirred solution of 1-[6-(5-bromo-2-chloro-benzyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone (8.6 g, 19.8 mmol) in ethanol (40 mL) was added NaBH4 portion wise and the reaction mixture was stirred overnight. The excess of NaBH4 was quenched by adding aq. HCl. Ethanol was evaporated and the residue was partitioned between dichloromethane and water. Organic layer was washed with brine, water, dried over sodium sulfate followed by evaporation of solvent furnished 6-(5-bromo-2-chloro-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine (6.1 g).

reactant | 1-[6-(5-bromo-2-chloro-benzyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone | 19.8 mmol, 8.6 g | BrC=1C=CC(=C(CC=2C=CC3=C(N(CCO3)C(C(F)(F)F)=O)C2)C1)Cl | C17H12BrClF3NO2
reactant | NaBH4 | [BH4-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 6-(5-bromo-2-chloro-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 6.1 g | BrC=1C=CC(=C(CC=2C=CC3=C(NCCO3)C2)C1)Cl | C15H13BrClNO
